US04916137
7-(3-Fluorophenyl)pyrazolo[1,5-a]pyrimidine-3-carboxamide
A 131.5 g amount of 7-(m-fluorophenyl) pyrazolo[1,5-a]pyrimidine-3-carbonitrile (prepared as described in U.S. Pat. No. 4,236,005) was dissolved in 500 ml of concentrated sulfuric acid by stirring at room temperature for 18 hours. The solution was then carefully poured into ice water. The precipitate which formed was collected by filtration then washed with 1N sodium hydroxide until pH 7 was achieved, followed by washing with water to remove the excess base. The crystalline material was dried in vacuo to give 136.3 g of the desired product as yellow crystals, m.p. 247°-249° C.

reactant | 7-(m-fluorophenyl) pyrazolo[1,5-a]pyrimidine-3-carbonitrile | FC=1C=C(C=CC1)C1=CC=NC=2N1N=CC2C#N | C13H7FN4
reactant | sulfuric acid | 500 ml | S(O)(O)(=O)=O | H2O4S
product | 7-(3-Fluorophenyl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 136.3 g | FC=1C=C(C=CC1)C1=CC=NC=2N1N=CC2C(=O)N | C13H9FN4O
